US07641914B2
2) Preparation of tert-butyl(3-hydroxypropylamino)-acetate
196 ml of 3-aminopropanol (2.56 mol) were diluted in 250 ml of dichloromethane and the whole was cooled to 0° C. on an ice bath. 20 g of tert-butyl bromoacetate (102.5 mmol), solubilized in 200 ml of dichloromethane, were then added dropwise while the reaction mixture was maintained at 0° C. At the end of the addition (2 hours later), the reaction mixture was left at room temperature for 3 hours.

reactant | 3-aminopropanol | 2.56 mol, 196 ml | NCCCO | C3H9NO
reactant | tert-butyl bromoacetate | 102.5 mmol, 20 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl(3-hydroxypropylamino)-acetate | C(C)(C)(C)OC(CNCCCO)=O | C9H19NO3
